US04423213
To a solution of 4-bromo-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-3-oxobutyric acid (20 g) in tetrahydrofuran (50 ml) was added a solution of thiourea (3.9 g) and sodium acetate (4.2 g) in water (50 ml), and the mixture was stirred at 40° C. for 2.5 hours. The reaction mixture was concentrated under reduced pressure to half of the original volume, which was adjusted to pH 7.5 with a saturated aqueous sodium bicarbonate and then washed with ethyl acetate. After the aqueous solution was further adjusted to pH 2.0 with 10% hydrochloric acid, the water was removed by decantation. The residual substance was dissolved in tetrahydrofuran (200 ml), followed by drying over magnesium sulfate. Removal of the solvent gave an oil, which was triturated with diisopropyl ether to give 2-(2-aminothiazol-4-yl)-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)acetic acid (syn isomer (3.5 g).

reactant | 4-bromo-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-3-oxobutyric acid | 20 g | BrCC(C(C(=O)O)=NOCC(=O)OCC(Cl)(Cl)Cl)=O | C8H7BrCl3NO6
reactant | thiourea | 3.9 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 4.2 g | C(C)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 2-(2-aminothiazol-4-yl)-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)acetic acid | NC=1SC=C(N1)C(C(=O)O)=NOCC(=O)OCC(Cl)(Cl)Cl | C9H8Cl3N3O5S
